US03966938
cis-1,2,3,4,4a,10b-Hexahydro-2-methyl-8,9-methylenedioxy-6-phenyl-benzo[c][1,6]naphthyridine.
7.0 g of cis-4-benzoylamino-3-(3,4-methylenedioxyphenyl)-1-methylpiperidine are heated to 90° in 75 cc of phosphorus oxychloride for 20 hours. The reaction mixture is subsequently evaporated to dryness, the residue is dissolved in 50 cc of ice water and a saturated potassium carbonate solution is added until the mixture is strongly alkaline. The reaction mixture is extracted with chloroform, and the chloroform mixture is washed with water, dried over sodium sulphate, and the solvent is evaporated. The residue is taken up in 20 cc of ethanol, and absolute hydrochloric acid in ethanol is added until an acid reaction to Congo red is obtained and precipitation is effected with ether. The precipitate, the dihydrochloride of the title compound, is recrystallized from ethanol/ether. Yellow coloured crystals having a M.P. of 248° (decomp.).

reactant | cis-4-benzoylamino-3-(3,4-methylenedioxyphenyl)-1-methylpiperidine | 7.0 g | C(C1=CC=CC=C1)(=O)N[C@@H]1[C@@H](CN(CC1)C)C1=CC2=C(C=C1)OCO2 | C20H22N2O3
solvent | phosphorus oxychloride | 75 cc | P(=O)(Cl)(Cl)Cl | Cl3OP
product | cis-1,2,3,4,4a,10b-Hexahydro-2-methyl-8,9-methylenedioxy-6-phenyl-benzo[c][1,6]naphthyridine | CN1C[C@H]2C3=C(C(=N[C@H]2CC1)C1=CC=CC=C1)C=C1C(=C3)OCO1 | C20H20N2O2
